US04198420
A solution of 14 g of 1-acetyl-4-(2-phenylthiophenyl)piperidine-4-carbonyl chloride in 500 ml of methylene chloride is slowly added with stirring to 7.5 g of aluminum chloride. After total addition, the reaction mixture is refluxed for 2 hours. Thereafter, ice is added before extracting thrice with chloroform. The combined chloroform extracts are successively washed with dilute alkali, washed with water, dried and the solvent is removed under vacuum, providing 10,11-dihydro-1'-acetyl-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine].

reactant | 1-acetyl-4-(2-phenylthiophenyl)piperidine-4-carbonyl chloride | 14 g | C(C)(=O)N1CCC(CC1)(C(=O)Cl)C1=C(C=CC=C1)SC1=CC=CC=C1 | C20H20ClNO2S
reactant | aluminum chloride | 7.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 10,11-dihydro-1'-acetyl-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine] | C(C)(=O)N1CCC2(CC1)C(C1=C(SC3=C2C=CC=C3)C=CC=C1)=O | C20H19NO2S
